US07214673B2
2-Methyl-4H-3-thia-4,9-diazabenzo[f]azulen-10-ylamine
Dissolve 2-methyl-4H-3-thia-4,9-diazabenzo[f]azulen-10-ylamine hydrochloride (6 g, 22.6 mmoles) in a 5:1 mixture of dichloromethane and commercial 7N ammonia-methanol, wash with half a volume of 5N aqueous sodium hydroxide. Separate the organic layer and extract the aqueous layer twice with dichloromethane. Combine all organic extracts, dry over magnesium sulfate, filter and concentrate in vacuo to yield the title free base as an orange solid: 1H NMR (DMSO-d6): δ8.10–7.80 (br, 1H), 7.30–6.90 (br, 2H), 6.80–6.65 (m, 3H), 6.59 (br dd, 1H, J=7.6, 1.6 Hz), 6.52 (br s, 1H), 2.22 (br s, 3H).

reactant | 2-methyl-4H-3-thia-4,9-diazabenzo[f]azulen-10-ylamine hydrochloride | 22.6 mmoles, 6 g | Cl.CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N
reactant | ammonia methanol | 7N | N.CO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Methyl-4H-3-thia-4,9-diazabenzo[f]azulen-10-ylamine | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N | C12H11N3S
